### PR TITLE
Validating for free composition from message dependencies

### PR DESCRIPTION
**Pull request by traiansf**
Based on the discussion on Wednesday, I've shown that one can reduce the validator property for the free composition to showing that all of the (direct or indirect) message dependencies of a message can be emitted (using their corresponding dependencies).

@denisadiaconescu and @wkolowski I've marked you as reviewers because (1) this could be added to the VLSM paper; and (2) this could potentially be used to prove validation for the MO components.

Anyone else feel free to review.

### CODE REVIEW

File: theories/VLSM/Core/Validator.v [hunk 1]
```diff
@@ -365,6 +365,94 @@ Definition pre_loaded_with_all_messages_validator_component_proj_incl
...
+  `{FullMessageDependencies message message_dependencies full_message_dependencies}
+  {validator : Type}
+  (A : validator -> index)
+  (sender : message -> option validator)
+  .
+
+(** The property of a message of having a sender and being emitable by the
+component corresponding to its sender pre-loaded with the dependencies of the
+message.
+*)
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:385]: I somewhat don't like this way of formatting doc comments. Maybe we should keep them properly indented? (I will not commit this suggestion myself).

```suggestion
(** The property of a message of having a sender and being emitable by the
    component corresponding to its sender pre-loaded with the dependencies of the
    message.
*)
```

File: theories/VLSM/Core/Validator.v [hunk 2]
```diff
@@ -365,6 +365,94 @@ Definition pre_loaded_with_all_messages_validator_component_proj_incl
...
+Definition emitable_from_dependencies_prop (m : message) : Prop :=
+  match sender m with
+  | None => False
+  | Some v => can_emit (pre_loaded_vlsm (IM (A v)) (fun dm => dm ∈ message_dependencies m)) m
+  end.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:390]: Why not make it `Inductive`?

```suggestion
Inductive emittable_from_dependencies_prop' (m : message) : Prop :=
 | efdp : forall (v : validator) (Hsender : sender m = Some v),
            can_emit (pre_loaded_vlsm (IM (A v)) (fun dm => dm ∈ message_dependencies m)) m ->
              emittable_from_dependencies_prop' m.
```

Also, you made a typo: it's "emittable" with two t's.

**Review by wkolowski — COMMENTED** [review]
Exceptionally good, (almost) nothing to nitpick about.

File: theories/VLSM/Core/Validator.v (hunk 1 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v:385]: I don't like them indented; seems like a waste of horizontal space. if you want, I can put the beginning of the comment on a new line as we do it in other places, like this:
```
(**
The property of a message of having a sender and being emitable by the
component corresponding to its sender pre-loaded with the dependencies of the
message.
*)
```

File: theories/VLSM/Core/Validator.v (hunk 2 above)
Comment (traiansf) [reply theories/VLSM/Core/Validator.v]: Thanks for the emittable tip :-)

Comment (traiansf) [reply theories/VLSM/Core/Validator.v]: > Why not make it `Inductive`?
> 

I guess I'm just not used to viewing it that way... 

I would have rather written it as 
```
Definition emitable_from_dependencies_prop (m : message) : Prop :=
  exists (v : validator) (Hsender : sender m = Some v),
    can_emit (pre_loaded_vlsm (IM (A v)) (fun dm => dm ∈ message_dependencies m)) m.
```
I generally find the inductive definitions like the one you proposed harder to read, and sometimes even harder to trust to be equivalent to the ones I proposed, which are, in some sense more straight-forward for a non-Coq user.

Comment (palmskog) [reply theories/VLSM/Core/Validator.v]: The main reason for making a predicate `Inductive` or not is whether you want to use `simpl` and `cbn` to reduce the predicate to its constituents or not. In some settings, splitting up a predicate into parts will clutter the context with useless information - `Inductive` will generally prevent this. However, you no longer get simple proofs about the predicate "for free", you have to apply constructors, possibly manually.

Comment (traiansf) [reply theories/VLSM/Core/Validator.v]: Ok I've added an inductive definition and proved them equivalent. Indeed, the inductive definition seems easier to use in the proofs. @wkolowski thanks for the suggestion!

File: theories/VLSM/Core/Composition.v [hunk 3]
```diff
@@ -687,6 +687,50 @@ Lemma [basic_VLSM_incl]
       - intro; intros. apply lift_to_composite_state_initial. assumption.
     Qed.
 
+    (**
+    If all messages desribed by a predicate <<P>> are valid for the free
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Composition.v:691]: There is a small typos: described instead of desribed

File: theories/VLSM/Core/Validator.v [hunk 4]
```diff
@@ -365,6 +365,115 @@ Definition pre_loaded_with_all_messages_validator_component_proj_incl
...
+  apply free_valid_from_valid_dependencies with (A v); [assumption | clear v Hemit'].
+  eapply FullMessageDependencies_ind; [eassumption |].
+  intros dm Hdm Hdeps.
+  specialize (Hm dm); spec Hm; [right; assumption |].
+  inversion Hm as [v _ ?]; clear Hm.
+  apply free_valid_from_valid_dependencies with (A v); assumption.
+Qed.
+
+(**
+If a node in a composition satisfied the
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Validator.v:462]: Small typo: `satisfies` instead of `satisfied`

File: theories/VLSM/Core/Validator.v [hunk 5]
```diff
@@ -365,6 +365,115 @@ Definition pre_loaded_with_all_messages_validator_component_proj_incl
...
+*)
+Definition valid_all_dependencies_emittable_from_dependencies_prop
+  (i : index) : Prop :=
+    forall l s m, input_valid (pre_loaded_with_all_messages_vlsm (IM i)) l (s, Some m) ->
+      all_dependencies_emittable_from_dependencies_prop m.
+
+(**
+If a message can be emitted by a node preloaded with the message's direct
+dependencies, and if all the dependencies of the message are valid for the
+free composition, the the message itself is valid for the free composition.
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Validator.v:425]: Small typo: `then` instead of `the`

File: theories/VLSM/Core/Validator.v [hunk 6]
```diff
@@ -365,6 +365,115 @@ Definition pre_loaded_with_all_messages_validator_component_proj_incl
 
 End component_projection_validator.
 
+Section free_composition_validators.
```
Comment (denisadiaconescu) [inline theories/VLSM/Core/Validator.v:368]: Maybe add a small description at the beginning of the Section.

**Review by denisadiaconescu — APPROVED** [review]
Looks good to me. I spotted just some typos.
